US04863948
(B) 2-Hydroxy-N-methyl-2-(4-methanesulphonamidophenyl)ethylamine
N-(4-Methanesulphonamidophenacyl)-N-methyl-benzylamine (14.5 g) in ethanol (300 ml) containing 10% palladium on charcoal (2.0 g) was stirred under a hydrogen atmosphere (50 psi) at room temperature for 18 hours. Further catalyst (1.0 g) was added and hydrogenation was continued for a further 18 hours. The reaction was filtered and evaporated to afford an oil which was chromatographed on silica [Merck `Kieselgel 60` (trade Mark)], eluting with methylene chloride containing methanol (0% up to 20%) to give, after collection and evaporation of appropriate fractions, the title compound as a solid, yield 5 g. [Washing the column with methylene chloride:methanol:acetic acid (80:20:0.25) gave a further 4 g of the product as the acetate salt].

reactant | N-(4-Methanesulphonamidophenacyl)-N-methyl-benzylamine | 14.5 g | CS(=O)(=O)NC1=CC=C(C(CN(C)CC2=CC=CC=C2)=O)C=C1 | C17H20N2O3S
solvent | ethanol | 300 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 2.0 g | [Pd] | Pd
product | 2-Hydroxy-N-methyl-2-(4-methanesulphonamidophenyl)ethylamine | 4 g | OC(CNC)C1=CC=C(C=C1)NS(=O)(=O)C | C10H16N2O3S
